US06759429B2
Under nitrogen atmosphere, a solution of methoxymethyl-triphenylphosphonium oxide (10.8 g) in Et2O (60 mL) was cooled to 0° C., and thereto was added dropwise a 1.7N solution of t-BuLi in pentane (18.6 mL). After the addition, the mixture was stirred at room temperature for 30 minutes, and cooled to 0° C. To the mixture was added a solution of methyl terephthalaldehyde (5.20 g) in Et2O (80 mL), and the mixture was stirred at 0° C. for 30 minutes, and stirred at room temperature for 80 minuts. To the mixture was added an aqueous NH4Cl solution, and the mixture was extracted twice with Et2O. The organic layer was washed twice with an aqueous NaHSO3 solution, and dried over MgSO4. The solvent was evaporated under reduced pressure to give crude methyl 4-[(E)-2-methoxyethenyl]benzoate (3.71 g). This product was dissolved in a mixture of THF (60 mL)-MeOH (20 mL)-water (20 mL), and thereto was added LiOH hydrate (2.04 g). The mixture was stirred at room temperature for 24 hours, and the solvent was evaporated under reduced pressure. Water was added to the resultant, and the aqueous mixture was washed with ethyl acetate, and cooled to 0° C. The pH value of the mixture was adjusted to pH=3 with a 5% aqueous KHSO4 solution, and the mixture was extracted twice with ethyl acetate, and dried over MgSO4. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (CHCl3/MeOH=50/1) to give 4-[(E)-2-methoxyethenyl]benzoic acid (1.37 g, 20%).

reactant | t-BuLi | [Li]C(C)(C)C
reactant | methyl terephthalaldehyde | 5.20 g | CC1=C(C=O)C=CC(=C1)C=O | C9H8O2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | LiOH hydrate | 2.04 g | O[Li].O
reactant | Et2O | 60 mL | CCOCC | C4H10O
reactant | Et2O | 80 mL | CCOCC | C4H10O
solvent | pentane | 18.6 mL | CCCCC | C5H12
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 4-[(E)-2-methoxyethenyl]benzoic acid | 1.37 g, 20% | CO/C=C/C1=CC=C(C(=O)O)C=C1 | C10H10O3
